US05672602
(S)-N-(2-Methoxybenzyl)-N-methyl-2-[N'-(t-butoxycarbonyl)-allylamino]-3-phenyl-propionamide
Combine (S)-2-[N-(t-butoxycarbonyl)-allylamino]-3-phenyl-propioic acid (1.59 g, 5.20 mmol), (2-methoxybenzyl)methylamine (0.79 g, 5.20 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.12 g, 5.72 mmol), 1-hydroxybenzotriazole (0.38 g, 2.52 mmol), and diisopropylethylamine (1.34 mL, 6.5 mmol) in dichloromethane (50 mL) and stir for 18 hours. Dilute with ethyl acetate and extract with 1M hydrochloric acid, a saturated aqueous solution of sodium bicarbonate and a saturated aqueous solution of sodium chloride. Dry the separated organic layer over MgSO4, filter and evaporate in vacuo. Chromatograph on silica gel eluting sequentially with 5% ethyl acetate/hexane and 10% ethyl acetate/hexane to give the title compound: TLC Rf =0.55 (silica gel, 30% ethyl acetate/hexane).

reactant | (S)-2-[N-(t-butoxycarbonyl)-allylamino]-3-phenyl-propioic acid | 5.20 mmol, 1.59 g | C(C)(C)(C)OC(=O)N([C@H](C(=O)O)CC1=CC=CC=C1)CC=C | C17H23NO4
reactant | (2-methoxybenzyl)methylamine | 5.20 mmol, 0.79 g | COC1=C(CCN)C=CC=C1 | C9H13NO
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 5.72 mmol, 1.12 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 2.52 mmol, 0.38 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | diisopropylethylamine | 6.5 mmol, 1.34 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-N-(2-Methoxybenzyl)-N-methyl-2-[N'-(t-butoxycarbonyl)-allylamino]-3-phenyl-propionamide | COC1=C(CN(C([C@H](CC2=CC=CC=C2)N(C(=O)OC(C)(C)C)CC=C)=O)C)C=CC=C1 | C26H34N2O4
